US06841560B2
2-(2-tert-Butyldimethylsilyloxyethyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline
7-Nitro-tetrahydroisoquinoline (5.0 g; 28.0 mmol) was dissolved in DMF (150 ml). This solution was treated with (2-bromoethoxy)-tert-butyl-dimethylsilane (12.0 ml; 56.0 mmol), and stirred at 80° C. overnight. The mixture was cooled to room temperature and the solvent removed in vacuo. Purification by column chromatography through SiO2, eluting with 50% diethyl ether/petroleum ether gave the title compound (4.2 g, 44%).

reactant | 7-Nitro-tetrahydroisoquinoline | 28.0 mmol, 5.0 g | [N+](=O)([O-])C1=CC=C2CCNCC2=C1 | C9H10N2O2
reactant | (2-bromoethoxy)-tert-butyl-dimethylsilane | 56.0 mmol, 12.0 ml | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 2-(2-tert-Butyldimethylsilyloxyethyl)-7-nitro-1,2,3,4-tetrahydroisoquinoline | 4.2 g, 44% | [Si](C)(C)(C(C)(C)C)OCCN1CC2=CC(=CC=C2CC1)[N+](=O)[O-] | C17H28N2O3Si
